US08431596B2
Cyclopropanecarboxylic acid [5-(1-ethanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-147)
To a solution of cyclopropanecarboxylic acid [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-060) (0.05 g, 0.186 mmol) in acetonitrile (2 mL), ethanesulfonyl chloride (0.022 ml, 0.224 mmol) and triethylamine (0.052 mL, 0.373 mmol) were added successively and the mixture was stirred overnight. After concentration under reduced pressure water was added and extracted with ethyl acetate, dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by preparatory HPLC. LCMS method: 1, RT: 3.87 min; MI: 361 [M+1]; NMR 1H (DMSO): 0.81-0.95 (m, 4H), 1.15 (t, 3H), 1.94 (brs, 1H), 3.82 (q, 2H), 7.66 (d, 1H), 7.73 (t, 1H), 7.81 (dd, 1H), 8.99 (s, 1H), 9.46 (s, 1H).

reactant | cyclopropanecarboxylic acid [5-(1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | 0.186 mmol, 0.05 g | N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C13H12N6O
reactant | ethanesulfonyl chloride | 0.224 mmol, 0.022 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | triethylamine | 0.373 mmol, 0.052 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Cyclopropanecarboxylic acid [5-(1-ethanesulfonyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | C(C)S(=O)(=O)N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C15H16N6O3S
